Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5][O:6][C:7]#[C:8][H:9].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]#[C:8][H:9],-1.08742535773
[C:5]([H:6])([H:7])[H:14].[H:1]/[C:2](=[C:3](/[H:4])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.87341301856
[O:1][C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[O:4][H:5]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-5.028986880380001
[H:1][C:2]=[C:3]1[C:4]([O:5][H:6])=[C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:7](=[C:4]/[O:5][H:6])[C:8]([H:9])([H:10])[H:11],-0.51351568035
[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],4.89102158868
[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],-8.335730170669999
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18],-1.74050582029
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],1.80973716123
[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.1384740904900004
[C:1][C:2]1([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],0.2484779948599999
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12].[H:8],4.87317473682
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12]>>[H:1][O:2][C:3][C:10]([C:9][C:6]([C:4][H:5])([H:7])[H:8])([H:11])[H:12],6.96430502896
[H:1].[O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.88818973522
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.88977549557
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.9123854972099994
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7],2.09570001448
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[O:1]=[C:2][H:3],3.72652209707
[C:1].[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-7.32212703475
[C:1].[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9],-3.90671229976
[H:12].[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.32788401745
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1][C@@:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]1=[C:9]([H:10])[H:11],0.615324239559
[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-2.4584485215700003
[H:10].[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.31446621971
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5],6.88883814401
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.5350091586000003
[C:5]([H:6])([H:7])([C:8])[H:12].[H:1][C:2]([H:3])=[C:4]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-0.89629839874
[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.94588679
[H:1][O:2][C:3](=[C:4][H:5])[O:12][C:9]([C:6]([H:7])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]1,-4.411798837709999
